US06001839
A solution of potassium peroxymonosulphate (4.93g) in water (10 ml) was added dropwise with stirring to a solution of 4-amino-5-[4-(phenylthio)phenyl]-7-(tert-butyl)pyrrolo[2,3-d]pyrimidine (1.0 g) in methanol (5 ml) and glacial acetic acid (5 ml) keeping the temperature below 5° C. The mixture was then stirred at ambient temperature for 3 hours and then diluted with water (50 ml). The mixture was extracted with ethyl acetate to give a solid which was purified by flash column chromatography on silica using ethyl acetate/triethylamine (9:1) as the mobile phase. Appropriate fractions were combined and concentrated to give a solid which was triturated with petroleum ether, boiling point 60-80° C. to give 7-tert-butyl-5-(4-phenylsulphonylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 222-224° C.

reactant | potassium peroxymonosulphate | 4.93g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | 4-amino-5-[4-(phenylthio)phenyl]-7-(tert-butyl)pyrrolo[2,3-d]pyrimidine | 1.0 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)SC2=CC=CC=C2)C(C)(C)C | C22H22N4S
reactant | water | 10 ml | O | H2O
reactant | water | 50 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-tert-butyl-5-(4-phenylsulphonylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C)(C)(C)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H22N4O2S
